* Qucs 26.1.0  PN5180_Matching.sch
.PARAM C1 = 20p
.PARAM C2 = 180p
L0A TX1 _net0  470N 
L0B TX2 _net1  470N 
C0A 0 _net0  127P 
C0B 0 _net1  127P 
V1 TX1 TX2 DC 0 SIN(0 1 1K 0 0 0) AC 1 ACPHASE 0
L1 ant_top ant_bottom  1.33U 
RQA _net2 ant_top  1 tc1=0.0 tc2=0.0 
RQB _net3 ant_bottom  1 tc1=0.0 tc2=0.0 
C2A 0 _net2  {C2} 
C2B 0 _net3  {C2} 
C1A _net0 _net2  {C1} 
C1B _net1 _net3  {C1} 

.control

ac lin 501 12meg 15meg 
let Vin = v(tx1,tx2)
let Vant = v(ant_top,ant_bottom)
let Zin = Vin / (-v1#branch)
let Rin = real(Zin)
let Xin = imag(Zin)
let Zmag = mag(Zin)
let Zphase = ph(Zin)*180/pi
let VantMag = mag(Vant)
let VantPhase = ph(Vant)*180/pi
let ZerrR = real(Zin)-20
let ZerrX = imag(Zin)
let Error = sqrt(ZerrR*ZerrR + ZerrX*ZerrX)
write spice4qucs.ac1.plot v(TX1) v(TX2) v(ant_bottom) v(ant_top) Vin Vant Zin Rin Xin Zmag Zphase VantMag VantPhase ZerrR ZerrX Error
destroy all
reset

exit
.endc
.END
